US07250433B2
To a solution of {2-isobutyl-1-(5-oxo-4,5-dihydro-[1,2,4]oxadiazol-3-yl)-cyclopropylmethyl}-carbamic acid tert-butyl ester (4.2 g, 13.5 mmol) in dry 1,4-dioxane (20 ml) was added 4N HCl (40 mL, in 1,4-dioxane). The reaction mixture was stirred at room temperature overnight and diluted with ether (100 mL). The precipitate was collected and washed with ether and dried to give 2.6 g (79%) of 3-(1-aminomethyl-2-isobutyl-cyclopropyl)-4H-[1,2,4]oxadiazol-5-one hydrochloride as a white solid: mp: 181-182° C.; 1H NMR (300 MHz, D2O) δ 0.94-0.98 (m, 6H), 1.21 (m, 1H), 1.35 (m, 1H), 1.58 (m, 3H), 1.73 (m, 1H), 3.24 (d, J=14.2 Hz, 1H), 3.71 (d, J=14.3 Hz, 1H); 13C NMR (75 MHz, D2O) δ 19.3, 19.6, 21.8, 22.1, 26.6, 28.2, 36.7, 39.5, 162.2, 162.6; MS (APCI) m/z 212 [M+H]+. Anal. Calc'd For C10H17N3O2—HCl: C, 48.49; H, 7.32; N, 16.96; Cl, 14.31. Found: C, 48.49; H, 7.17; N, 16.84; Cl, 13.94.

reactant | {2-isobutyl-1-(5-oxo-4,5-dihydro-[1,2,4]oxadiazol-3-yl)-cyclopropylmethyl}-carbamic acid tert-butyl ester | 13.5 mmol, 4.2 g | C(C)(C)(C)OC(NCC1(C(C1)CC(C)C)C1=NOC(N1)=O)=O | C15H25N3O4
reactant | HCl | 4N, 40 mL | Cl | ClH
solvent | 1,4-dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | ether | 100 mL | CCOCC | C4H10O
product | 3-(1-aminomethyl-2-isobutyl-cyclopropyl)-4H-[1,2,4]oxadiazol-5-one hydrochloride | 2.6 g, 79% | Cl.NCC1(C(C1)CC(C)C)C1=NOC(N1)=O | InChI=1S/C10H17N3O2.ClH/c1-6(2)3-7-4-10(7,5-11)8-12-9(14)15-13-8;/h6-7H,3-5,11H2,1-2H3,(H,12,13,14);1H
